US06555556B1
Dimethyl 2-Hydroxy-5-nitroisophthalate
Dimethyl 2-hydroxyisophthalate (1.5 g) was added to a mixture of 69% nitric acid (5 ml) and concentrated sulfuric acid (5 ml) and the mixture was stirred in an ice bath for 0.5 hours. After pouring into iced water, the reaction mixture was extracted with ethyl acetate. The extract was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo to afford a yellow solid. To the solid was added hexane and the mixture was filtered to give the desired compound (1.6 g, yield 89%) as a yellow solid.

reactant | Dimethyl 2-hydroxyisophthalate | 1.5 g | OC1=C(C(=O)OC)C=CC=C1C(=O)OC | C10H10O5
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | Dimethyl 2-Hydroxy-5-nitroisophthalate | 1.6 g, yield 89% | OC1=C(C(=O)OC)C=C(C=C1C(=O)OC)[N+](=O)[O-] | C10H9NO7
